US05514679
3-(5-ethyl-2-furanyl)propan-1-ol
To a mixture of 3.42 g (90.1 mol) of LAH in THF under nitrogen and stirring at 0° C., was added dropwise 14.9 g (81.9 mmol) of methyl 3-(5-ethyl-2-furyl)propanoate in THF. The reaction mixture was quenched with 3.4 mL of water, 3.4 mL of sodium hydroxide solution, and 10.2 mL of water. Magnesium sulfate was added to the mixture with stirring, filtered and concentrated in vacuo. The residue was passed through silica gel and eluted with ethyl acetate/hexane (2:8) to yield 10.7 g (85%) of the desired product as a clear colorless oil, used in the next preparation without further purification.

reactant | LAH | 90.1 mol, 3.42 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | methyl 3-(5-ethyl-2-furyl)propanoate | 81.9 mmol, 14.9 g | C(C)C1=CC=C(O1)CCC(=O)OC | C10H14O3
solvent | THF | C1CCOC1 | C4H8O
product | 3-(5-ethyl-2-furanyl)propan-1-ol | 10.7 g, 85% | C(C)C1=CC=C(O1)CCCO | C9H14O2
